US05571810
A mixture of 2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene (5 g), acetic anhydride (4.3 ml) and sulfuric acid (0.97 ml) in dichloromethane (47 ml) was stirred at ambient temperature overnight. The mixture was concentrated to give a crude blue oil of 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-sulfonic acid (10.5 g).

reactant | 2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 5 g | FC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)S(=O)(=O)C | C17H13FO2S2
reactant | acetic anhydride | 4.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.97 ml | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 47 ml | ClCCl | CH2Cl2
product | 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-sulfonic acid | 10.5 g | FC1=CC=C(C=C1)C1=C(C=C(S1)S(=O)(=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C17H13FO5S3
